### PR TITLE
[Merged by Bors] - feat: basic facts about discrete subsets and subgroups

### PR DESCRIPTION
**Pull request by ocfnash**
Co-authored-by: Bhavik Mehta <bhavik.mehta8@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/DiscreteSubset.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+Given a topological space `X` together with a subset `s ⊆ X`, there are two distinct concepts of
+"discreteness" which may hold. These are:
+  (i) Every point of `s` is isolated (i.e., the subset topology induced on `s` is the discrete
+      topology).
+ (ii) Every compact subset of `X` meets `s` only finitely often (i.e., the inclusion map `s → X`
+      tends to the cocompact filter along the cofinite filter on `s`).
+
+When `s` is closed, the two conditions are equivalent provided `X` is locally compact and T1,
+see `IsClosed.tendsto_coe_cofinite_iff`. In general however (i) and (ii) are different and it is
+(ii) that is most useful, see e.g., `Subgroup.properlyDiscontinuousSMul_of_tendsto_cofinite`.
```
Comment (ADedecker) [inline Mathlib/Topology/DiscreteSubset.lean:21]: I don't want this to block the PR, but I don't agree with that. I claim that this version is currently more useful because we don't have the right definition of `ProperlyDiscontinuousSMul` (the right one would be in terms of proper maps, although I can't remember it right now), and the one we have is only the right one on locally compact spaces (and we only use it in this context right now in Mathlib). Moreover, if we did have the "right" definition, then `Subgroup.properlyDiscontinuousSMul_of_tendsto_cofinite` would hold *in non locally-compact spaces*, but assuming discreteness in the sense of (i).

Comment (ocfnash) [reply Mathlib/Topology/DiscreteSubset.lean:21]: Interesting: thank you for this comment! I'll reword.

Comment (ADedecker) [reply Mathlib/Topology/DiscreteSubset.lean]: I think in an ideal world we would have a class `ProperSMul` saying that the action of topological group on a topological space is proper, and the class `ProperlyDiscontinuousSMul` would be exactly `ProperSMul` when the a-priori-non-topological group is endowed with the discrete topology.

File: Mathlib/GroupTheory/Subgroup/Basic.lean [hunk 2]
```diff
@@ -2646,6 +2646,10 @@ theorem rangeRestrict_surjective (f : G →* N) : Function.Surjective f.rangeRes
 #align monoid_hom.range_restrict_surjective MonoidHom.rangeRestrict_surjective
 #align add_monoid_hom.range_restrict_surjective AddMonoidHom.rangeRestrict_surjective
 
+@[to_additive (attr := simp)]
+lemma rangeRestrict_injective_iff {f : G →* N} : Injective f.rangeRestrict ↔ Injective f :=
+  forall₂_congr $ fun x y ↦ by simp [Subtype.ext_iff]
```
Comment (urkud) [inline Mathlib/GroupTheory/Subgroup/Basic.lean:2651]: Not tested:
```suggestion
  Set.injective_codRestrict _
```

File: Mathlib/Topology/Algebra/UniformGroup.lean [hunk 3]
```diff
@@ -609,6 +610,18 @@ instance Subgroup.isClosed_of_discrete [T2Space G] {H : Subgroup G} [DiscreteTop
...
+lemma Subgroup.tendsto_coe_cofinite_of_discrete [T2Space G] {H : Subgroup G} [DiscreteTopology H] :
+    Tendsto ((↑) : H → G) cofinite (cocompact _) :=
+  IsClosed.tendsto_coe_cofinite_of_discreteTopology inferInstance inferInstance
+
+@[to_additive]
+lemma MonoidHom.tendsto_coe_cofinite_of_discrete [T2Space G] {H : Type _} [Group H] {f : H →* G}
+    (hf : Function.Injective f) (hf' : DiscreteTopology f.range) :
+    Tendsto f cofinite (cocompact _) := by
+  replace hf : Function.Injective f.rangeRestrict := by simpa
+  exact (f.range.tendsto_coe_cofinite_of_discrete).comp hf.tendsto_cofinite
```
Comment (urkud) [inline Mathlib/Topology/Algebra/UniformGroup.lean:623]:
```suggestion
  exact f.range.tendsto_coe_cofinite_of_discrete.comp hf.tendsto_cofinite
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 4]
```diff
@@ -0,0 +1,67 @@
...
+"discreteness" which may hold. These are:
+  (i) Every point of `s` is isolated (i.e., the subset topology induced on `s` is the discrete
+      topology).
+ (ii) Every compact subset of `X` meets `s` only finitely often (i.e., the inclusion map `s → X`
+      tends to the cocompact filter along the cofinite filter on `s`).
+
+When `s` is closed, the two conditions are equivalent provided `X` is locally compact and T1,
+see `IsClosed.tendsto_coe_cofinite_iff`.
+
+## Main definitions
```
Comment (urkud) [inline Mathlib/Topology/DiscreteSubset.lean:22]:
```suggestion
## Main statements
```

File: Mathlib/Topology/DiscreteSubset.lean [hunk 5]
```diff
@@ -0,0 +1,67 @@
...
+ * `IsClosed.tendsto_coe_cofinite_iff`:
+
+-/
+
+open Set Filter Function Topology
+
+variable {X Y : Type _} [TopologicalSpace X] [TopologicalSpace Y] {f : X → Y}
+
+lemma tendsto_cofinite_cocompact_iff :
+    Tendsto f cofinite (cocompact _) ↔ ∀ K, IsCompact K → Set.Finite (f ⁻¹' K) := by
```
Comment (urkud) [inline Mathlib/Topology/DiscreteSubset.lean:34]: I think that `hasBasis_cocompact` can help golf this proof. Something like (not tested):
```
  rw [hasBasis_cocompact.tendsto_right_iff, ← compl_surjective.forall]
  simp only [compl_compl, preimage_compl]
```

File: Mathlib/GroupTheory/Subgroup/Basic.lean (hunk 2 above)
Comment (ocfnash) [reply Mathlib/GroupTheory/Subgroup/Basic.lean:2651]: This works provided I also use `convert`.

File: Mathlib/Topology/DiscreteSubset.lean (hunk 5 above)
Comment (ocfnash) [reply Mathlib/Topology/DiscreteSubset.lean:34]: Thanks, I've pushed a proof using `hasBasis_cocompact.tendsto_right_iff` (the above didn't quite work).

File: Mathlib/Topology/Algebra/UniformGroup.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/Topology/Algebra/UniformGroup.lean:623]: Somewhat disturbingly, the the brackets are required! I'll raise this on Zulip.

Comment (ocfnash) [reply Mathlib/Topology/Algebra/UniformGroup.lean]: Fixed: the issue was that the parameter `H` in `Subgroup.tendsto_coe_cofinite_of_discrete` was incorrectly implicit.

**Comment by j-loreaux** [comment]
Thanks!

bors r+
